US09056876B2
e. PREPARATION OF 3-AMINO-5-CHLORO-4,6-DIMETHYLTHIENO [2,3-B]PYRIDINE-2-CARBONITRIL
The 5-chloro-4,6-dimethyl-2-thioxo-1,2-dihydropyridine-3-carbonitrile (300 mg, 1.51 mmol) was stirred in the DMF (3.0 mL). An aqueous solution of 10% KOH (0.85 mL, 1.51 mmol) was added, followed by chloroacetonitrile (0.095 mL, 1.51 mmol). The reaction was stirred at RT for 15 minutes, LC/MS indicates initial thio-alkylation is complete. A second equivalent of 10% KOH (0.85 mL, 1.51 mmol) was added and the resulting slurry was warmed to 50° C. and stirred about 30 min. LC/MS indicates reaction is done. The slurry was cooled to RT, then poured into 50 g of crushed ice and allowed to warm until the ice melted. The cold slurry was poured through filter paper, washing the solid with cold water. The solid was collected and dried in a vacuum oven at 60° C. to give 310 mg (86%) of the pure product as a light yellow solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 6.56 (s, 1H), 2.80 (s, 3H), 2.62 (s, 3H). LC/MS: RT=0.73 min., m/z=238.0 [M+H]+.

reactant | 5-chloro-4,6-dimethyl-2-thioxo-1,2-dihydropyridine-3-carbonitrile | 1.51 mmol, 300 mg | ClC=1C(=C(C(NC1C)=S)C#N)C | C8H7ClN2S
reactant | KOH | 1.51 mmol, 0.85 mL | [OH-].[K+]
reactant | chloroacetonitrile | 1.51 mmol, 0.095 mL | ClCC#N | C2H2ClN
reactant | KOH | 1.51 mmol, 0.85 mL | [OH-].[K+]
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | 3-AMINO-5-CHLORO-4,6-DIMETHYLTHIENO [2,3-B]PYRIDINE-2-CARBONITRIL | 310 mg, 86% | NC1=C(SC2=NC(=C(C(=C21)C)Cl)C)C#N | C10H8ClN3S
